US06627644B2
4-({Ethyl-[7-(4-fluoro-benzoylamino)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amino}-methyl)-piperidine-1-carboxylic Acid Isopropylamide
To a solution of 4-{[(7-amino-1,2,3,4-tetrahydro-naphthalen-2-yl)-ethyl-amino]-methyl}-piperidine-1-carboxylic acid isopropylamide (200 μL of 0.25 M in acetonitrile, 50 μmol) was added 220 μL of a 0.25 M solution of 4-fluorobenzoyl chloride in dichloromethane and 30 μL of DIEA. The solution was allowed to stir for 24 h at 25° C. under N2 and concentrated in vacuo. The final product was isolated by preparative RPHPLC (YMC Combiprep ODS-A column, 10-90% acetonitrile:water (0.1% TFA)) to afford 4-({ethyl-[7-(4-fluoro-benzoylamino)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amino}-methyl)-piperidine-1-carboxylic acid isopropylamide (13.1 mg) 7 [M+H]+=495.

reactant | 4-{[(7-amino-1,2,3,4-tetrahydro-naphthalen-2-yl)-ethyl-amino]-methyl}-piperidine-1-carboxylic acid isopropylamide | 50 μmol, 0.25 M, 200 μL | C(C)(C)NC(=O)N1CCC(CC1)CN(CC)C1CC2=CC(=CC=C2CC1)N | C22H36N4O
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | DIEA | 30 μL | CCN(C(C)C)C(C)C | C8H19N
product | 4-({Ethyl-[7-(4-fluoro-benzoylamino)-1,2,3,4-tetrahydro-naphthalen-2-yl]-amino}-methyl)-piperidine-1-carboxylic Acid Isopropylamide | C(C)(C)NC(=O)N1CCC(CC1)CN(C1CC2=CC(=CC=C2CC1)NC(C1=CC=C(C=C1)F)=O)CC | C29H39FN4O2
